US07825131B2
Step A: (1-Methyl-1H-1,2,4-triazol-5-yl)methyl methanesulfonate
To a solution of (1-methyl-1H-1,2,4-triazol-5-yl)methanol (53 mg, 0.47 mmol) in 2 mL of dichloromethane was added triethylamine (0.13 mL, 0.94 mmol), followed by methanesulfonyl chloride (0.044 mL, 0.56 mmol). The mixture was stirred at room temperature for 3 hours, then partitioned between EtOAc and water. The organic layer was washed with saturated NaHCO3 solution and brine, dried over Na2SO4, filtered, and concentrated in vacuo to give the title product. ESI+MS: 192.2 [M+H]+.

reactant | (1-methyl-1H-1,2,4-triazol-5-yl)methanol | 0.47 mmol, 53 mg | CN1N=CN=C1CO | C4H7N3O
reactant | triethylamine | 0.94 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.56 mmol, 0.044 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (1-Methyl-1H-1,2,4-triazol-5-yl)methyl methanesulfonate | CS(=O)(=O)OCC1=NC=NN1C | C5H9N3O3S
